US09382228B2
A solution of 2,2,2-trimethylacetamide (0.044 g, 0.431 mmol) in DCE (2 mL) was treated with oxalyl chloride (0.038 mL, 0.431 mmol), stirred at RT for 5 min, then heated at 80° C. for 0.5 h. The mixture was cooled to RT, added to a mixture of 5-((2-(oxazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine (0.073 g, 0.287 mmol) and pyridine (0.186 mL, 2.297 mmol) in dioxane (4 mL) and stirred at RT for 3 h. The mixture was treated with satd. NaHCO3, extracted with EtOAc (3×) and the combined organics were dried over Na2SO4 and concentrated to dryness. The material was treated with MeCN and the solid collected via filtration to afford N-((5-((2-(oxazol-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide (44 mg, 40%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.24 (s, 1H), 10.45 (s, 1H), 8.52 (d, J=5.7 Hz, 1H), 8.49 (s, 1H), 8.31 (d, J=2.9 Hz, 1H), 8.11 (d, J=9.0 Hz, 1H), 7.81-7.77 (m, 2H), 7.27 (d, J=2.5 Hz, 1H), 6.95 (dd, J=5.7, 2.5 Hz, 1H), 1.21 (s, 9H); MS (ESI) m/z: 382.2 (M+H+).

reactant | 2,2,2-trimethylacetamide | 0.431 mmol, 0.044 g | CC(C(=O)N)(C)C | C5H11NO
reactant | oxalyl chloride | 0.431 mmol, 0.038 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-((2-(oxazol-5-yl)pyridin-4-yl)oxy)pyridin-2-amine | 0.287 mmol, 0.073 g | O1C=NC=C1C1=NC=CC(=C1)OC=1C=CC(=NC1)N | C13H10N4O2
reactant | pyridine | 2.297 mmol, 0.186 mL | N1=CC=CC=C1 | C5H5N
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
product | N-((5-((2-(oxazol-5-yl)pyridin-4-yl)oxy)pyridin-2-yl)carbamoyl)pivalamide | 44 mg, 40% | O1C=NC=C1C1=NC=CC(=C1)OC=1C=CC(=NC1)NC(=O)NC(C(C)(C)C)=O | C19H19N5O4
